2191-03-18 12:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   improving neuro signs
   significant hypophosphatemia (appears to be from refeeding syndrome)
   given thiamine 200mg IV BID
   given total of 7L so far NS and D5NS
   checking Q4 venous lactate
   started CIWA
   given vitamin K 5mg PO x1
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2191-3-18**] 06:48 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2191-3-18**] 11:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-3-18**] 12:42 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 135 (117 - 135) bpm
   BP: 100/33(48) {94/32(47) - 115/53(67)} mmHg
   RR: 23 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             9,905 mL
   PO:
             60 mL
   TF:
   IVF:
   3,845 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    585 mL
   Urine:
   285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  9,320 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///14/
   Physical Examination
   See admission note
   Labs / Radiology
   168 K/uL
   7.1 g/dL
   164 mg/dL
   0.9 mg/dL
   14 mEq/L
   3.8 mEq/L
   18 mg/dL
   96 mEq/L
   120 mEq/L
   20.3 %
   9.1 K/uL
        [image002.jpg]
                             [**2191-3-18**]  03:12 AM
                             [**2191-3-18**]  07:08 AM
   WBC
   9.1
   Hct
   20.3
   Plt
   168
   Cr
   0.8
   0.9
   Glucose
   67
   164
   Other labs: PT / PTT / INR:27.5/56.1/2.7, CK / CKMB / Troponin-T:115//,
   ALT / AST:34/179, Alk Phos / T Bili:80/6.2, Differential-Neuts:87.7 %,
   Lymph:7.3 %, Mono:4.6 %, Eos:0.2 %, Fibrinogen:126 mg/dL, Lactic
   Acid:7.0 mmol/L, LDH:228 IU/L, Ca++:6.6 mg/dL, Mg++:1.5 mg/dL, PO4:0.7
   mg/dL
   Assessment and Plan
   39M with weakness and transaminitis
   .
   PLAN:
   ====
   Mild Hepatitis: Best etiology appears to be mild alcoholic hepatitis.
   Other differential includes viral, drug mediated, vascular, autoimmine,
   or Wilsons.   His transminitis isn't too impressive for toxin mediated,
   viral, or vascular pathologies.  Hepatomegaly without splenomegaly
   suggests early liver disease in acute exacerbation in the setting of
   EtOH. CT suggestive of fatty infiltration. Tox screen negative, EtOH
   level 110.
   - Viral serologies pending
   - Autoimmune studies pending
   - Ceruloplasmin
   - Social Work Consult
   - Nutrition Consult
   Dry Beriberi
 this is a possible diagnosis since there is significant
   improvement in weakness in just a few
   hours after large thiamine administration and the patient is
   nutritionally deficient.
   Found case reports of the neurological weakness as in this case
   resembling gullian-[**Location (un) **] syndrome.
   ([1]Koike H, [2]Ito S, [3]Morozumi S, [4]Kawagashira Y, [5]Iijima M,
   [6][**Last Name (un) 5736**] N, [7][**Doctor Last Name 5737**] F, [8]Sobue G.
   Rapidly developing weakness mimicking Guillain-[**Doctor Last Name **]
 syndrome in
   beriberi neuropathy: two case reports.)
    Beriberi would also explain the extremely high lactic acidosis that
   paradoxically rose in setting of fluid resuscitation.
   [**0-0-**]
   ber/2.
   [9]17%20ACUTE%20PERNICOUS%20OR%20FULMINATING% 20BERIBERI%20WITH%20SE
   [10][**Last Name (un) **]%20LACTIC%20ACIDOSIS.A%20CASE%20REPORT,%20Y.K.Seeda.pdf
   This would also explain the patient
s primary metabolic acidosis and
   primary respiratory alkalosis.
    ([11][**Doctor Last Name 1526**] MW, [12][**Doctor First Name 612**] J, [13][**Doctor Last Name 1226**] AJ, [14][**Last Name (un) 5746**] E, [15][**Doctor Last Name 3698**]
   M.
   Distinctive acid-base pattern in Wernicke's encephalopathy. [16][**First Name5 (NamePattern1) **]
   [**Last Name (NamePattern1) 5747**] Med. [**2189**] [**Month (only) **];50(6):722-5. Epub [**2188**] [**1-6**].
   Hyponatremia: no ascites on exam to suggest cirrhois and portal
   hypertension.  Also patient not overloaded on exam to suggest
   hypervolemic hyponatremia.  Initial thought is hypovolemic hyponatremia
   given relative hypotension and tachycardia.
   - Bolus with D5NS and recheck lytes.
   - Urine electrolytes
   AG Metabolic Acidosis: starvation ketosis with lactic acidosis with
   compensated pH. liver disease and alcoholism can lead to a decreased
   utilization of lactic acidosis.
   - Replete with D5 NS
   - calculated osmoles: 268
   - measures osmoles: 280
   - serum tox & utox negative
   - Trend lytes q2h until gap closes
   Weakness: 3 months of progressive weakness in the setting of alcohol
   use raises the possibility of a nutritional deficiency.  Patient's
   thiamine ordered for concern of Thiamine deficiency.
   - Neurology consult
   Coagulopathy: likely due to liver failure and poor nutrition. DIC also
   a possibility.
   - DIC labs pending
   - FFP for procedures
   - Trend
   Elevated Lipase: could be from subclinical alcoholic pancreatitis.
   - Will follow
   Hypoglycemia: impaired hepatic gluconeogeneis in setting background of
   poor nutrition.
   - replete with oral and IV repletion of glucise
   - ADAT
   - Nutrition consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-3-18**] 03:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   Visible links
   1. [**URL 5748**]
   2. [**URL 5748**]
   3. [**URL 5748**]
   4. [**URL 5748**]
   5. [**URL 5748**]
   6. [**URL 5748**]
   7. [**URL 5748**]
   8. [**URL 5748**]
   9. [**0-0-**]
  10. [**0-0-**]
  11. [**URL 5748**]
  12. [**URL 5749**]
  13. [**URL 5750**]
  14. [**URL 5751**]
  15. [**URL 5752**]
  16. javascript:AL_get(this,%20'jour',%20'[**URL **]%20Emerg%20Med.');
   Hidden links:
  17. [**0-0-**]

2191-03-18 13:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   improving neuro signs
   significant hypophosphatemia (appears to be from refeeding syndrome)
   given thiamine 200mg IV BID
   given total of 7L so far NS and D5NS
   checking Q4 venous lactate
   started CIWA
   given vitamin K 5mg PO x1
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2191-3-18**] 06:48 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2191-3-18**] 11:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-3-18**] 01:22 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 135 (117 - 135) bpm
   BP: 111/50(58) {94/32(47) - 115/53(67)} mmHg
   RR: 25 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             10,197 mL
   PO:
             90 mL
   TF:
   IVF:
   4,107 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    610 mL
   Urine:
   310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  9,587 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///14/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   168 K/uL
   7.1 g/dL
   164 mg/dL
   0.9 mg/dL
   14 mEq/L
   3.8 mEq/L
   18 mg/dL
   96 mEq/L
   120 mEq/L
   20.3 %
   9.1 K/uL
        [image002.jpg]
                             [**2191-3-18**]  03:12 AM
                             [**2191-3-18**]  07:08 AM
   WBC
   9.1
   Hct
   20.3
   Plt
   168
   Cr
   0.8
   0.9
   Glucose
   67
   164
   Other labs: PT / PTT / INR:27.5/56.1/2.7, CK / CKMB / Troponin-T:115//,
   ALT / AST:34/179, Alk Phos / T Bili:80/6.2, Differential-Neuts:87.7 %,
   Lymph:7.3 %, Mono:4.6 %, Eos:0.2 %, Fibrinogen:126 mg/dL, Lactic
   Acid:5.4 mmol/L, LDH:228 IU/L, Ca++:6.6 mg/dL, Mg++:1.5 mg/dL, PO4:0.7
   mg/dL
   Assessment and Plan
   39M with weakness and transaminitis, working diagnosis of dry beriberi
   from severe thiamine deficiency.
   .
   PLAN:
   ====
   Mild Hepatitis: Best etiology appears to be mild alcoholic hepatitis.
   Other differential includes viral, drug mediated, vascular, autoimmine,
   or Wilsons.   His transminitis isn't too impressive for toxin mediated,
   viral, or vascular pathologies.  Hepatomegaly without splenomegaly
   suggests early liver disease in acute exacerbation in the setting of
   EtOH. CT suggestive of fatty infiltration. Tox screen negative, EtOH
   level 110.
   - Viral serologies pending
   - Autoimmune studies pending
   - Ceruloplasmin
   - Social Work Consult
   - Nutrition Consult
   Dry Beriberi
 this is a possible diagnosis since there is significant
   improvement in weakness in just a few
   hours after large thiamine administration and the patient is
   nutritionally deficient.
   Found case reports of the neurological weakness as in this case
   resembling gullian-[**Location (un) **] syndrome.
   ([1]Koike H, [2]Ito S, [3]Morozumi S, [4]Kawagashira Y, [5]Iijima M,
   [6][**Last Name (un) 5736**] N, [7][**Doctor Last Name 5737**] F, [8]Sobue G.
   Rapidly developing weakness mimicking Guillain-[**Doctor Last Name **]
 syndrome in
   beriberi neuropathy: two case reports.)
    Beriberi would also explain the extremely high lactic acidosis that
   paradoxically rose in setting of fluid resuscitation.
   This would also explain the patient
s primary metabolic acidosis and
   primary respiratory alkalosis.
    ([9][**Doctor Last Name 1526**] MW, [10][**Doctor First Name 612**] J, [11][**Doctor Last Name 1226**] AJ, [12][**Last Name (un) 5746**] E, [13][**Doctor Last Name 3698**]
   M.
   Distinctive acid-base pattern in Wernicke's encephalopathy. [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 5747**]
   Med. [**2189**] [**Month (only) **];50(6):722-5. Epub [**2188**] [**1-6**].
   Hyponatremia: no ascites on exam to suggest cirrhois and portal
   hypertension.  Also patient not overloaded on exam to suggest
   hypervolemic hyponatremia.  Initial thought is hypovolemic hyponatremia
   given relative hypotension and tachycardia vs. euvolumic hyponatremia
   caused by beer potomania. Urine electrolytes are consistent with a low
   FeNA of a hypovolemic state.
   - Bolus with D5NS and recheck lytes.
   AG Metabolic Acidosis: starvation ketosis with lactic acidosis with
   compensated pH. liver disease and alcoholism can lead to a decreased
   utilization of lactic acidosis.
   - Replete with D5 NS
   - calculated osmoles: 268
   - measures osmoles: 280
   - serum tox & utox negative
   Weakness: 3 months of progressive weakness in the setting of alcohol
   use raises the possibility of a nutritional deficiency.  Patient's
   thiamine ordered for concern of Thiamine deficiency.
   - Neurology consult
   Hypophosphatemia
 given the rapid onset, appears to be caused by
   refeeding syndrome. In alcholics, total body hypophosphatemia causes
   exaggerated response to glucose administration. Will replete stores in
   dilute IV form before restarted D5. Not caused by hyperventilation bc
   nl RR.
   -          will replete aggressively, and hold D5 for now until
   replete.
   -
   Coagulopathy: likely due to liver failure and poor nutrition. DIC also
   a possibility. Gave Vitamin K 5mg PO X1.
   - DIC labs pending
   - FFP for procedures
   - Trend
   Elevated Lipase: could be from subclinical alcoholic pancreatitis.
   - Will follow
   Hypoglycemia: impaired hepatic gluconeogeneis in setting background of
   poor nutrition.
   - replete with oral and IV repletion of glucose
   - ADAT
   - Nutrition consult, cautious bc refeeding syndrome
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-3-18**] 03:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. [**URL 5753**]
   2. [**URL 5753**]
   3. [**URL 5753**]
   4. [**URL 5753**]
   5. [**URL 5753**]
   6. [**URL 5753**]
   7. [**URL 5753**]
   8. [**URL 5753**]
   9. [**URL 5753**]
  10. [**URL 5753**]
  11. [**URL 5753**]
  12. [**URL 5753**]
  13. [**URL 5753**]